US08461149B2
Step 1: (R)-2-chloro-8-((R)-3,3-difluorocyclopentyl)-7-ethyl-5-methyl-7,8-dihydropteridin-6(5H)-one
60% sodium hydride in mineral oil (22.41 mg, 0.56 mmol) was added to a mixture of (R)-2-chloro-8-((R)-3,3-difluorocyclopentyl)-7-ethyl-7,8-dihydropteridin-6(5H)-one (169 mg, 0.53 mmol) and methyl iodide (36.54 μL, 0.59 mmol) in dimethylacetamide (1.7 mL). The reaction mixture was stirred at room temperature for 1 hour. Ice was added to the reaction mixture. A solid crashed out and was filtered off, rinsing with water. The solid was dried in a pistol under vacuo at 70° C. The compound was obtained as a white solid (165 mg, 94% yield).

reactant | sodium hydride | [H-].[Na+]
reactant | (R)-2-chloro-8-((R)-3,3-difluorocyclopentyl)-7-ethyl-7,8-dihydropteridin-6(5H)-one | 0.53 mmol, 169 mg | ClC1=NC=2N([C@@H](C(NC2C=N1)=O)CC)[C@H]1CC(CC1)(F)F | C13H15ClF2N4O
reactant | methyl iodide | 0.59 mmol, 36.54 μL | CI | CH3I
solvent | dimethylacetamide | 1.7 mL | CC(=O)N(C)C | C4H9NO
product | (R)-2-chloro-8-((R)-3,3-difluorocyclopentyl)-7-ethyl-5-methyl-7,8-dihydropteridin-6(5H)-one | 165 mg, 94% yield | ClC1=NC=2N([C@@H](C(N(C2C=N1)C)=O)CC)[C@H]1CC(CC1)(F)F | C14H17ClF2N4O
